US07776910B2
Lithium diisopropylamide (2.0 M in heptane/THF/ethylbenzene, 1.58 mL, 3.16 mmol) was added to a solution of (S)-3-[2-(4-bromo-2-methoxy-phenyl)-acetyl]-4-isopropyl-oxazolidin-2-one (1.126 g, 3.16 mmol) in THF (11 mL) under argon atmosphere at −78° C. The mixture was stirred for 15 minutes and bromoacetonitrile (0.23 mL, 3.32 mmol) was added at −78° C. The mixture was stirred for 3 hours at 0° C., and then a saturated solution of NH4Cl was added. The mixture was extracted with EtOAc, and the combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 85/15) to give 755 mg (60% yield) of (S)-3-(4-bromo-2-methoxy-phenyl)-4-((S)-4-isopropyl-2-oxo-oxazolidin-3-yl)-4-oxo-butyronitrile as a white solid.

reactant | Lithium diisopropylamide | 3.16 mmol, 2.0 M, 1.58 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | (S)-3-[2-(4-bromo-2-methoxy-phenyl)-acetyl]-4-isopropyl-oxazolidin-2-one | 3.16 mmol, 1.126 g | BrC1=CC(=C(C=C1)CC(=O)N1C(OC[C@@H]1C(C)C)=O)OC | C15H18BrNO4
reactant | bromoacetonitrile | 3.32 mmol, 0.23 mL | BrCC#N | C2H2BrN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | (S)-3-(4-bromo-2-methoxy-phenyl)-4-((S)-4-isopropyl-2-oxo-oxazolidin-3-yl)-4-oxo-butyronitrile | 755 mg, 60% yield | BrC1=CC(=C(C=C1)[C@H](CC#N)C(=O)N1C(OC[C@@H]1C(C)C)=O)OC | C17H19BrN2O4
